.SUBCKT DFFNSX2H7R CKN D Q QN SN VDD VSS
*.PININFO CKN:I D:I SN:I Q:O QN:O VDD:B VSS:B
MMN6 net056 SN VSS VSS nm1p2_svt_lp W=240n L=60n m=1
MMN1 net082 CKB net36 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net36 net048 net056 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN4 net46 net33 net056 VSS nm1p2_svt_lp W=240n L=60n m=1
MMP0 net082 SN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MMP2 net67 net048 VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net082 CKP net67 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 VDD VDD pm1p2_svt_lp W=340n L=60n m=1
XI0 D CKB CKP VDD VSS net33 / TSINV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI1 net46 CKP CKB VDD VSS net33 / TSINV pl=6E-08 pw=1.5E-07 nl=6E-08 nw=1.5E-07
XI7 net082 VDD VSS net048 / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI8 net048 VDD VSS Q / INV pl=6E-08 pw=4E-07 nl=6E-08 nw=2.8E-07
XI6 CKP VDD VSS CKB / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI3 net082 VDD VSS QN / INV pl=6E-08 pw=4E-07 nl=6E-08 nw=2.8E-07
XXI4 CKN VDD VSS CKP / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XXI9 CKP CKB net46 net082 VDD VSS / TG pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
.ENDS
